US06248785B1
c) Preparation of 2-allyloxy-4-cyanoaniline
To the solution of 3-allyloxy-4-nitrobenzonitrile (5.85 g, 28.68 mmol) in ethanol (30 ml), Tin (II) chloride (32 g, 143.4 mmol) was added. The reaction mixture was stirred at reflux for 4 hours and then was cooled to room temperature. NaHCO3 (aq) was added to pH=7 was achieved. Then the reaction mixture was extracted with ethyl acetate (3×). The combined organic layer was dried over MgSO4, filtered and concentrated under reduced pressure to give desired product (4.5 g, 90%). EI-MS m/z 175 (M+).

reactant | 3-allyloxy-4-nitrobenzonitrile | 28.68 mmol, 5.85 g | C(C=C)OC=1C=C(C#N)C=CC1[N+](=O)[O-] | C10H8N2O3
reactant | Tin (II) chloride | 143.4 mmol, 32 g | [Sn](Cl)Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-allyloxy-4-cyanoaniline | 4.5 g, 90% | C(C=C)OC1=C(N)C=CC(=C1)C#N | C10H10N2O
